US08084448B2
B. (S)—N-(2-Aminophenyl)-2-benzenesulfonylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionamide
To a solution of (S)-2-benzenesulfonylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid (110 mg, 0.2 mmol) in DMF (5 mL) is added diisopropylethylamine (0.038 mL, 0.22 mmol) and HATU (84 mg, 0.22 mmol). The mixture is stirred at RT for 10 min then a solution of 1,2-diaminobenzene (26 mg, 0.24 mmol) in DMF (1 mL) is added and stirring is continued for 48 h. The solvent is removed under reduced pressure to give the title compound which is used directly in the next step

reactant | (S)-2-benzenesulfonylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid | 0.2 mmol, 110 mg | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1 | C24H23N3O8S2
reactant | diisopropylethylamine | 0.22 mmol, 0.038 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.22 mmol, 84 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1,2-diaminobenzene | 0.24 mmol, 26 mg | NC1=C(C=CC=C1)N | C6H8N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)—N-(2-Aminophenyl)-2-benzenesulfonylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionamide | NC1=C(C=CC=C1)NC([C@H](CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O | C30H29N5O7S2
